US08729102B2
C) methyl 1-benzyl-3-({(25)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-methyl-1H-pyrazole-5-carboxylate
Under an argon atmosphere, a mixture of methyl 1-benzyl-4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate (1.03 g), trimethylboroxin (552 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (181 mg), potassium carbonate (912 mg) and DMF (20 ml) was stirred at 155° C. overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (330 mg).

reactant | methyl 1-benzyl-4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | 1.03 g | C(C1=CC=CC=C1)N1N=C(C(=C1C(=O)OC)Br)OC[C@H](C)NC(=O)OC(C)(C)C | C20H26BrN3O5
reactant | trimethylboroxin | 552 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 912 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 181 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | Water | O | H2O
product | methyl 1-benzyl-3-({(25)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-methyl-1H-pyrazole-5-carboxylate | 330 mg | C(C1=CC=CC=C1)N1N=C(C(=C1C(=O)OC)C)OC[C@H](C)NC(=O)OC(C)(C)C | C21H29N3O5
